Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
stroke
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms ___ is a lovely ___ yo woman with PMH significant for
Alzheimer dementia, HTN, HLD, and hypothyroid who presents after
subacute stroke was found on out patient MRI. The patient lives
in an assisted living in ___. She started acting "more
confused" this past ___ (10 days PTA). Most notable she
walked into several other apartments when she was looking for 
her
own. She went to see his PCP on ___ and was found to have a
positive UA and was started on ___ (started on ___. Over
this weekend she was at a wedding with her daughter and kept
asking for someone to bring her food, while there was an
untouched plate sitting in front of her. on ___ she did the
same with a glass of juice. The patient's daughter asked her PCP
to order an MRI which was done and showed a subacute infarct on
the right.  

On neuro ROS: the pt denies headache, loss of vision, blurred
vision, diplopia, oscilopsia, dysarthria, dysphagia, drop
attacks, lightheadedness, vertigo, tinnitus or hearing
difficulty. Denies difficulties producing or comprehending
speech. Denies focal weakness, numbness, paresthesias. No bowel
or bladder incontinence or retention. Denies difficulty with
gait. 

On general ROS: the pt denies recent fever or chills. No night
sweats or recent weight loss or gain. Denies cough, shortness of
breath. Denies chest pain or tightness, palpitations. Denies
nausea, vomiting, diarrhea, constipation or abdominal pain. No
recent change in bowel or bladder habits. No dysuria. Denies
arthralgias or myalgias. Denies rash.
 
Past Medical History:
Dementia 
hypothyroidism 
HTN
HLD 

 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
T: 97 HR: 84 BP: 158/80 RR: 18 Sat: 99%

GENERAL MEDICAL EXAMINATION:
General appearance: alert, in no apparent distress
HEENT: Neck is supple. Sclera are non-injected. Mucous membranes
are moist. No carotid bruit 
CV: Heart rate is regular
Lungs: Clear to auscultation bilaterally without wheezing or
crackles. 
Abdomen: soft, non-tender
Extremities: No evidence of deformities. No contractures. 
Skin: No visible rashes. Warm and well perfused.

NEUROLOGICAL EXAMINATION:
Mental Status: Awake and alert. oriented to ___ and
___, location was "a place for head problems". she was able
to repeat that she was at ___ (where her
daughter works) but could not recall this moments later. She
could also not recall that she was here due to a stroke despite
several explanations. Inattentive with slow DOWB. Language is
fluent and appropriate with intact comprehension, repetition and
naming of both high and low frequency objects. Normal prosody.
There were no paraphasic errors. Speech was not dysarthric. Able
to follow both midline and appendicular commands. No neglect,
left/right confusion or finger agnosia.  No apraxia for salute 
or
brush your teeth. + palomental on left. no grasp. 

Cranial Nerves:
I: not tested
II: dense homonymous hemianopsia on left. could not visualize
fundi. 
III-IV-VI: pupils equally round, reactive to light - small. 
Eyes were eso deviated. With both eyes open left eye did not
cross midline to the left. when tested separately EOMI. could 
not
test saccads as patient had difficulty finding objects in space.
she denies diplopia. 
V: Symmetric perception of LT in V1-3 
VII: Face is symmetric at rest and with activation; symmetric
speed and excursion with smile.
VIII: Hearing intact to finger rub bl
IX-X: Palate elevates symmetrically
XI: Shoulder shrug and head rotation ___ bl 
XII: No tongue deviation or fasciculations

Pt only describes the R side of the stroke cards. She lists
details in the scene (drawers, water, dish) but can not describe
the whole image at all. She seem to do the same when asked to
look at my face (eyes, neck, mouth, nose...) but does not seem 
to
see my face. she has trouble locating objects in space both by
sight and sound, event when placed in her good field. 

Motor: Normal muscle bulk and tone throughout. No pronator drift
or rebound
Strength:
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

Reflexes:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Toes are down going bilaterally.

Sensory: normal and symmetric perception of pinprick, light
touch, vibration and temperature. Proprioception is intact. No
agraphesthesia or astereognosis. No extinction to DSS.

Coordination: Finger to nose without dysmetria bilaterally. No
intention tremor. RAM were symmetric with regard to cadence and
speed, no dysdiadochokinesia noted.

Gait: not tested. 
========================================================
DISCHARGE PHYSICAL EXAM:
NEUROLOGICAL EXAMINATION:
Mental Status: Awake and alert. Very hard of hearing. She cannot 
say why she is in the hospital. Language is fluent and 
appropriate with intact comprehension, repetition and naming of 
both high and low frequency objects. Normal prosody. There were 
no paraphasic errors. Speech was not dysarthric. Able to follow 
both midline and appendicular commands. Left sided neglect.  

Cranial Nerves:
I: not tested
II: dense homonymous hemianopsia on left. could not visualize
fundi. 
III-IV-VI: pupils equally round, reactive to light, EOMI. 
V: Symmetric perception of LT in V1-3 
VII: Face is symmetric at rest and with activation; symmetric
speed and excursion with smile.
VIII: Hearing intact to finger rub bl
IX-X: Palate elevates symmetrically
XI: Shoulder shrug and head rotation ___ bl 
XII: No tongue deviation or fasciculations

Motor: Normal muscle bulk and tone throughout. No pronator drift
or rebound
Strength:
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

Reflexes:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Toes are down going bilaterally.

Sensory: normal and symmetric perception of pinprick, light
touch, vibration and temperature. Proprioception is intact. No
agraphesthesia or astereognosis. No extinction to DSS.

Coordination: Finger to nose without dysmetria bilaterally. 

Gait: not tested. 

 
Pertinent Results:
ADMISSION LABS:
___ 07:00PM BLOOD WBC-5.7 RBC-4.37 Hgb-12.6 Hct-40.2 MCV-92 
MCH-28.8 MCHC-31.3* RDW-13.6 RDWSD-46.2 Plt ___
___ 07:00PM BLOOD Neuts-58.6 ___ Monos-10.2 Eos-3.0 
Baso-0.5 Im ___ AbsNeut-3.32 AbsLymp-1.55 AbsMono-0.58 
AbsEos-0.17 AbsBaso-0.03
___ 07:00PM BLOOD ___ PTT-32.0 ___
___ 07:00PM BLOOD Glucose-93 UreaN-22* Creat-1.0 Na-141 
K-5.4* Cl-104 HCO3-26 AnGap-16
___ 12:53PM BLOOD ALT-9 AST-16 AlkPhos-68 TotBili-1.0
___ 12:53PM BLOOD Albumin-4.4 Calcium-10.0 Phos-3.6 Mg-2.4
___ 12:53PM BLOOD %HbA1c-5.9 eAG-123
___ 12:53PM BLOOD TSH-3.6

IMAGING:
MRI BRAIN ___:
1.  Moderate-sized acute infarction involving the right 
parietotemporal 
region, with associated small internal microhemorrhages. 
2.  Additional findings of moderate global cerebral atrophy and 
small vessel ischemic disease. 
3.  A punctate susceptibility focus of the left occipital 
parietal lobe, which may represent prior microhemorrhage. 

CTA HEAD AND NECK ___ (PRELIM):
NCHCT: Hypodensity in the right temporoparietal lobe corresponds 
to the areas of restricted diffusion on the patients recent MRI, 
consistent with patients known infarction. 
  
CTA: No definite vascular abnormalities identified in the region 
of the known infarction in the right temporoparietal region. No 
aneurysms identified. 

TTE ___:
The left atrium is normal in size. No left atrial mass/thrombus 
seen (best excluded by transesophageal echocardiography). There 
is mild symmetric left ventricular hypertrophy with normal 
cavity size and regional/global systolic function (LVEF>55%). 
Diastolic function could not be assessed. Right ventricular 
chamber size and free wall motion are normal. The aortic valve 
leaflets (3) are mildly thickened but aortic stenosis is not 
present. Mild (1+) aortic regurgitation is seen. The mitral 
valve leaflets are mildly thickened. The estimated pulmonary 
artery systolic pressure is normal. There is no pericardial 
effusion. 

IMPRESSION: Suboptimal image quality. No cardiac source of 
embolism identified. Mild symmetric left ventricular hypertrophy 
with preserved regional/global systolic function. Mild aortic 
regurgitation.  

DISCHARGE LABS:
___ 12:53PM BLOOD WBC-6.2 RBC-4.63 Hgb-13.4 Hct-42.3 MCV-91 
MCH-28.9 MCHC-31.7* RDW-13.6 RDWSD-45.4 Plt ___
___ 12:53PM BLOOD ___ PTT-33.9 ___
___ 12:53PM BLOOD Glucose-73 UreaN-18 Creat-1.1 Na-142 
K-4.4 Cl-103 HCO3-26 AnGap-17
 
Brief Hospital Course:
Ms ___ is an ___ yo woman with PMH significant for Alzheimer 
dementia, HTN, HLD, and hypothyroidism who presented with left 
sided neglect with acute right temporoparietal infarct. 

# Right temporoparietal infarct: Patient presented with left 
sided neglect and possible left sided field cut. She was placed 
on aspirin 325mg and atorvastatin 40mg and MRI confirmed acute 
infarction involving the right parietotemporal 
region, with associated small internal microhemorrhages. CTA was 
unremarkable. She was monitored on telemetry but there were no 
episodes of atrial fibrillation to account for stroke. HbA1C and 
lipid panel were within normal limits. TTE did not show any 
evidence of left atrial thrombus or PFO. Given her age and 
mental status, it was decided not to pursue long term cardiac 
monitoring for evaluation of atrial fibrillation. Patient had 
difficulty tolerating telemetry monitors while hospitalized and 
it would not change management as the team decided they would 
not start anti-coagulation in this patient even if atrial 
fibrillation was found. She will continue on aspirin as an 
outpatient and follow-up with stroke neurology as ab outpatient. 
  

# UTI: Patient was found to have a UTI on admission and treated 
with 3 days of Ciprofloxacin HCl 250 mg PO/NG Q12H.  

# Hypothyroidism: She was continued on Levothyroxine Sodium 75 
mcg PO/NG DAILY. 

# HTN: She was continued on Lisinopril 5 mg PO/NG DAILY.  

Transitional issues: 
-continue on aspirin 81mg 
-HCP: ___ (daughter) ___ 
-currently Full code, continue to address goals of care
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. melatonin 3 mg oral QHS:PRN insomnia 
3. Levothyroxine Sodium 75 mcg PO DAILY 
4. Lisinopril 5 mg PO DAILY 
5. Lovastatin 40 mg oral QHS 

 
Discharge Medications:
1. Levothyroxine Sodium 75 mcg PO DAILY 
2. Lisinopril 5 mg PO DAILY 
3. melatonin 3 mg oral QHS:PRN insomnia 
4. Lovastatin 40 mg ORAL QHS 
5. Aspirin 325 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Primary diagnosis:
Right parietotemporal stroke

Secondary diagnosis:
Urinary Tract Infection

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to ___ with a stroke. Your heart rhythm was 
monitored but there was no evidence of an abnormal rhythm 
causing the stroke. You did not have any evidence of clot in 
your heart on ultrasound so the cause of your stroke remains 
unclear. You should continue to take aspirin and you will 
follow-up with neurology at the appointments scheduled below. 

It was a pleasure taking care of you, 
Your ___ Neurologists
 
Followup Instructions:
___